US07951810B2
Step c: ((2R,3S,5R)-5-[4-(benzylamino)-1H-pyrrolo[3,2-c]pyridin-1-yl]-3-{[tert-butyl(dimethyl)silyl]oxy}tetrahydrofuran-2-yl)methyl sulfamate
Using essentially the same procedure as example 43, step f, ((2R,3S,5R)-5-[4-(benzylamino)-1H-pyrrolo[3,2-c]pyridin-1-yl]-3-{[tert-butyl(dimethyl)silyl]oxy}tetrahydrofuran-2-yl)methanol (0.0876 g, 0.193 mmol) was reacted with chlorosulfonamide, and the product was purified by flash chromatography (60 to 100% EtOAc/CH2Cl2) to afford the title compound (0.0300 g, 29%).

reactant | ((2R,3S,5R)-5-[4-(benzylamino)-1H-pyrrolo[3,2-c]pyridin-1-yl]-3-{[tert-butyl(dimethyl)silyl]oxy}tetrahydrofuran-2-yl)methanol | 0.193 mmol, 0.0876 g | C(C1=CC=CC=C1)NC1=NC=CC2=C1C=CN2[C@H]2C[C@@H]([C@H](O2)CO)O[Si](C)(C)C(C)(C)C | C25H35N3O3Si
reactant | chlorosulfonamide | ClS(=O)(=O)N | ClH2NO2S
product | ((2R,3S,5R)-5-[4-(benzylamino)-1H-pyrrolo[3,2-c]pyridin-1-yl]-3-{[tert-butyl(dimethyl)silyl]oxy}tetrahydrofuran-2-yl)methyl sulfamate | 0.0300 g, 29% | S(N)(OC[C@H]1O[C@H](C[C@@H]1O[Si](C)(C)C(C)(C)C)N1C=CC=2C(=NC=CC21)NCC2=CC=CC=C2)(=O)=O | C25H36N4O5SSi
